US07087599B2
An ice-cold solution of 9a-butyl-7-methoxy-4-{4-[2-(1-piperidinyl)-ethoxy]phenyl}-1,2,9,9a-tetrahydro-3H-fluoren-3-one (85 mg, 96% weight pure, 0.172 mmol) in anhydrous CH2Cl2 (1.2 mL) was placed under a nitrogen atmosphere and treated with EtSH (0.055 mL, 0.743 mmol). The resulting solution was added by syringe to AlCl3 (115.2 mg, 0.864 mmol) contained in an ice-cold flask and kept under nitrogen. The resulting solution was stirred at 0° C. for 3 minutes, then at room temperature for 35 minutes. The mixture was cooled in an ice bath, treated with 0.5N HCl (1.6 mL) and tetrahydrofuran (1.0 mL), and stirred at 0° C. for 10 minutes. The resulting mixture was diluted with EtOAc (20 mL) and water (15 mL) and stirred while basifying with solid NaHCO3. The layers were separated and the aqueous portion extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered, and evaporated under vacuum to afford 9a-butyl-7-hydroxy-4-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1,2,9,9a-tetrahydro-3H-fluoren-3-one as a yellow semi-solid.

reactant | 9a-butyl-7-methoxy-4-{4-[2-(1-piperidinyl)-ethoxy]phenyl}-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.172 mmol, 85 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)OCCN1CCCCC1)OC | C31H39NO3
reactant | EtSH | 0.743 mmol, 0.055 mL | CCS | C2H6S
reactant | AlCl3 | 0.864 mmol, 115.2 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 0.5N, 1.6 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 1.2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | tetrahydrofuran | 1.0 mL | O1CCCC1 | C4H8O
product | 9a-butyl-7-hydroxy-4-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1,2,9,9a-tetrahydro-3H-fluoren-3-one | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C1=CC=C(C=C1)OCCN1CCCCC1)O | C30H37NO3
